US03960967
To a suspension of 24.2 g. of sodium benzenesulfinate in 150 ml. of dimethylformamide (DMF) was added 19.9 g. of 1-chloro-2-methyl-4-acetoxybut-2-ene in 50 ml. of DMF. The mixture was then heated to 60°C. for 4.5 hours. A second portion, 19.0 g. of sodium benzenesulfinate was added and the heating continued for 1.5 hours. The reaction mixture was poured into 1.5 l. of water and filtered to remove the solid which was dissolved in 500 ml. of ethyl acetate. This solution was washed with three 300 ml. portions of water and dried over magnesium sulfate. Evaporation of the solvent afforded 25.2 g. of crude sulfone acetate, m.p. 86°-92°C. Ethyl acetate extraction, washing and drying of the aqueous filtrate afforded an additional 6.07 g. of less pure product. Recrystallization of the main portion from ethyl acetate gave analytically pure 1-phenylsulfonyl-2-methyl-4-acetoxy-but-2-ene, m.p. 93°-94°C.

reactant | sodium benzenesulfinate | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | 1-chloro-2-methyl-4-acetoxybut-2-ene | ClCC(=CCOC(C)=O)C | C7H11ClO2
solvent | DMF | CN(C=O)C | C3H7NO
product | 1-phenylsulfonyl-2-methyl-4-acetoxy-but-2-ene | C1(=CC=CC=C1)S(=O)(=O)CC(=CCOC(C)=O)C | C13H16O4S
